US07858613B2
N-(4-Methylphenylsulfonyl)carbamic acid 5-oxo-2,3,4,5-tetrahydro-benzo[b]thiepin-4-ylmethyl ester
To a solution of 4-hydroxymethyl-3,4-dihydro-2H-benzo[b]thiepin-5-one (300 mg, 1.44 mmol) in 7 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.22 ml, 1.6 mmol) and p-toluenesulfonyl isocyanate (312 mg, 1.586 mmol). The mixture was stirred at room temperature for 1.5 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:9 tert.butyl methyl ether/dichloromethane). The product was obtained in a yield of 250 mg (43%).

reactant | 4-hydroxymethyl-3,4-dihydro-2H-benzo[b]thiepin-5-one | 1.44 mmol, 300 mg | OCC1C(C2=C(SCC1)C=CC=C2)=O | C11H12O2S
reactant | triethylamine | 1.6 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl isocyanate | 1.586 mmol, 312 mg | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | N-(4-Methylphenylsulfonyl)carbamic acid 5-oxo-2,3,4,5-tetrahydro-benzo[b]thiepin-4-ylmethyl ester | O=C1C2=C(SCCC1COC(NS(=O)(=O)C1=CC=C(C=C1)C)=O)C=CC=C2 | C19H19NO5S2
